US08124606B2
Compound 63A: (S)-methyl 2-(tert-butoxycarbonyl(ethyl)amino)propanoate:
(S)-methyl 2-(tert-butoxycarbonylamino)propanoate (10.0 g, 49.2 mmol) was dissolved in THF (100 mL) and cooled to 0° C. under nitrogen. Sodium hydride (60% susp. in mineral oil, 3.00 g, 75.1 mmol) was added in portions over 2 min. The reaction mixture was stirred for 5 min at 0° C. and EtI (4.80 mL, 59.5 mmol) was added. It was allowed to warm to room temperature over the period of 1 h, stirred at room temperature overnight and at 70° C. for 7 d. The reaction mixture was cooled, filtered and concentrated in vacuo. The solid was triturated with hexanes (2×70 mL), the triturates were concentrated in vacuo and the residue was purified using flash column chromatography on silica gel (330 g SiO2, hexanes:ethyl acetate 19:1-9:1) to afford the title compounds as an oil (4.40 g, 39%). [M+H] calc'd for C11H21NO4, 232; found, 232.

reactant | (S)-methyl 2-(tert-butoxycarbonylamino)propanoate | 49.2 mmol, 10.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C | C9H17NO4
reactant | Sodium hydride | 75.1 mmol, 3.00 g | [H-].[Na+]
reactant | EtI | 59.5 mmol, 4.80 mL | C(C)I | C2H5I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (S)-methyl 2-(tert-butoxycarbonyl(ethyl)amino)propanoate | 4.40 g, 39% | C(C)(C)(C)OC(=O)N([C@H](C(=O)OC)C)CC | C11H21NO4
